US04052361
To a stirred solution of 25 grams (0.1 mole) of 3,5-di-t-butyl-4-hydroxybenzoic acid and 15.6 grams (0.1 mole) of 4-amino-2,2,6,6-tetramethylpiperidine in 100 milliliters of dry tetrahydrofuran was added dropwise a solution of 20.6 grams (0.1 mole) of dicyclohexylcarbodiimide in 75 milliliters of dry tetrahydrofuran. The mixture was stirred for several hours and the white solid (dicyclohexyl urea) was filtered off and discarded. Evaporation of the filtrate gave a white solid, which was recrystallized from 1:1 benzenehexane to give N-(2,2,6,6-tetramethyl-4-piperidinyl)-3,5-di-t-butyl-4-hydroxybenzamide; melting point 256°-258° C.

reactant | 3,5-di-t-butyl-4-hydroxybenzoic acid | 0.1 mole, 25 grams | C(C)(C)(C)C=1C=C(C(=O)O)C=C(C1O)C(C)(C)C | C15H22O3
reactant | 4-amino-2,2,6,6-tetramethylpiperidine | 0.1 mole, 15.6 grams | NC1CC(NC(C1)(C)C)(C)C | C9H20N2
reactant | dicyclohexylcarbodiimide | 0.1 mole, 20.6 grams | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | tetrahydrofuran | 100 milliliters | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 75 milliliters | O1CCCC1 | C4H8O
product | N-(2,2,6,6-tetramethyl-4-piperidinyl)-3,5-di-t-butyl-4-hydroxybenzamide | CC1(NC(CC(C1)NC(C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O)(C)C)C | C24H40N2O2
